US07732461B2
(e) 1,1-Dimethylethyl (1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxypropyl}-4-piperidinyl)carbamate
A solution of methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate (26.63 g, containing about 9% DMF by weight, estimate 52.5 mmol) was stirred under argon at −70° C. and treated with a 1M solution of lithium aluminium hydride in THF (60 ml). The mixture was allowed to warm to −10° C., stirred in an ice bath for 2 hours, treated with water (4.5 ml), 2N NaOH solution (8.44 ml) and water (9.7 ml) and stirred a further 30 minutes. The solid was filtered off and washed with THF and the filtrate evaporated. Chromatography of the residue (methanol/dichloromethane gradient) gave the product (18.28 g).

reactant | methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate | 52.5 mmol, 26.63 g | CC(C)(C)OC(=O)NC1CCN(CC1)CC(C(=O)OC)C1=C(C=NC2=CC=C(N=C12)OC)F | C23H31FN4O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.5 ml | O | H2O
reactant | NaOH | 2N, 8.44 ml | [OH-].[Na+]
reactant | water | 9.7 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl (1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxypropyl}-4-piperidinyl)carbamate | 18.28 g | FC=1C=NC2=CC=C(N=C2C1C(CN1CCC(CC1)NC(OC(C)(C)C)=O)CO)OC | C22H31FN4O4
